plaintext
* SPICE Netlist for the given schematic

* Voltage Source
V_in 2 1 DC <value> 

* Resistors
R1 6 7 <value>
R2 5 7 <value>
R3 2 3 <value>
R4 2 4 <value>
R5 2 7 <value>
R6 4 4 <value> ; or consider as a short for 0 ohm

* Capacitors
C1 3 6 <value>
C2 2 5 <value>

* Operational Amplifiers (model required)
XOP1 2 4 4 OPAMP
XOP2 6 7 6 OPAMP
XOP3 5 7 3 OPAMP

* End of Netlist
.end